US08492559B2
Stage 7: 2-(6-(8-Chloro-4-methyl-1-oxopyrrolo[3,4-b]indol-2(1H,3H,4H)-yl)-1H-indol-1-yl)acetic acid
tert-Butyl 2-(6-(8-chloro-4-methyl-1-oxopyrrolo[3,4-b]indol-2(1H,3H,4H)-yl)-1H-indol-1-yl)acetate (1.6 mmol, 1 equiv.) was dissolved in DCM (40 ml); TFA (16 ml) was added and the mixture was stirred for 2 h at 25° C. The solvent was reduced under reduced pressure, dichloromethane was added 2× to the residue, and in each case concentration to dryness again was carried out. The residue was used in the next step without being purified further.

reactant | tert-Butyl 2-(6-(8-chloro-4-methyl-1-oxopyrrolo[3,4-b]indol-2(1H,3H,4H)-yl)-1H-indol-1-yl)acetate | 1.6 mmol, 1 equiv. | ClC=1C=2C3=C(N(C2C=CC1)C)CN(C3=O)C3=CC=C1C=CN(C1=C3)CC(=O)OC(C)(C)C | C25H24ClN3O3
reactant | TFA | 16 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(6-(8-Chloro-4-methyl-1-oxopyrrolo[3,4-b]indol-2(1H,3H,4H)-yl)-1H-indol-1-yl)acetic acid | ClC=1C=2C3=C(N(C2C=CC1)C)CN(C3=O)C3=CC=C1C=CN(C1=C3)CC(=O)O | C21H16ClN3O3
